US09062028B2
Step B. 3-(5-((4-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)-1H-tetrazol-1-yl)propanenitrile
To a solution of N-(2-cyanoethyl)-2-(4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetamide (20 mg, 0.04 mmol) and pyridine (19 μL, 0.24 mmol) in DCM (0.4 mL) under argon was added PCl5 (13 mg, 0.06 mmol) in one portion, and the resulting mixture was heated to reflux for 3 h. The reaction was cooled to room temperature and trimethylsilyl azide (18 mg, 0.16 mmol) was added. The resulting mixture was stirred at room temperature overnight and carefully quenched with saturated aqueous NaHCO3. The resulting mixture was stirred vigorously for 15 min. The organic phase was separated, dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue was purified by flash chromatography (0-100% ethyl acetate:hexanes) to afford the title compound (17 mg, 81% yield) as white foam. LCMS, [M+H]+=525.2. 1H NMR (400 MHz, CDCl3) δ 7.54 (s, 1H), 7.47 (s, 1H), 7.30-7.16 (m, 2H), 7.10 (d, J=8.7 Hz, 1H), 7.03 (t, J=7.9 Hz, 1H), 6.76 (d, J=7.5 Hz, 1H), 6.64 (d, J=8.2 Hz, 1H), 5.74 (s, 2H), 4.95 (t, J=6.9 Hz, 2H), 3.93 (s, 2H), 3.78 (t, J=6.8 Hz, 2H), 3.06 (t, J=6.9 Hz, 2H), 2.74 (t, J=7.1 Hz, 2H), 2.52 (s, 2H), 2.24-2.11 (m, 5H), 1.96-1.78 (m, 5H).

reactant | N-(2-cyanoethyl)-2-(4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)acetamide | 0.04 mmol, 20 mg | C(#N)CCNC(CN1N=CC(=C1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O)=O | C29H33N5O3
reactant | pyridine | 0.24 mmol, 19 μL | N1=CC=CC=C1 | C5H5N
reactant | PCl5 | 0.06 mmol, 13 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | trimethylsilyl azide | 0.16 mmol, 18 mg | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | DCM | 0.4 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-((4-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)-1H-tetrazol-1-yl)propanenitrile | 17 mg, 81% yield | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC2=NN=NN2CCC#N)C=CC=C1C | C29H32N8O2
